US07601716B2
1-[5-Chloro-2-(trifluoromethyl)benzyl]-7-(1H-pyrazol-4-yl)-1,2,3,4-tetrahydro-pyrido[2,3-b]pyrazine
1-[5-Chloro-2-(trifluoromethyl)benzyl]-7-iodo-1,2,3,4-tetrahydro-pyrido[2,3-b]pyrazine (109 mg) was reacted with 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazole-1-carboxylic acid-tert-butyl ester as in General Procedure 4B, then added 6 mL CH2Cl2 and TFA (0.6 mL), and purified on normal phase silica gel chromatography to give the title compound as an off-white solid (44% yield). m.p.=271° C., LCMS: m/z=394.24 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 3.50 (2H, m), 3.66 (2H, m), 4.05 (3H, s), 4.61 (2H, s), 6.50 (1H, d, J=1.5 Hz), 7.40 (1H, s), 7.50 (1H, s), 7.56 (3H, m), 7.68 (1H, d, J=8.6 Hz).

reactant | 1-[5-Chloro-2-(trifluoromethyl)benzyl]-7-iodo-1,2,3,4-tetrahydro-pyrido[2,3-b]pyrazine | 109 mg | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)I)C1)C(F)(F)F | C15H12ClF3IN3
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazole-1-carboxylic acid-tert-butyl ester | C(C)(C)(C)OC(=O)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C14H23BN2O4
reactant | TFA | 0.6 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | 1-[5-Chloro-2-(trifluoromethyl)benzyl]-7-(1H-pyrazol-4-yl)-1,2,3,4-tetrahydro-pyrido[2,3-b]pyrazine | 44% yield | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=NNC3)C1)C(F)(F)F | C18H15ClF3N5
